US07491732B2
2-Chloro-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-4-pyrimidineamine (100 mg) and sulfanilamide (100 mg) were suspended in isopropanol (1 mL) and TFA (5 drops). The solution was heated at 100° C. overnight. The solution was evaporated and purified by flash column chromatography (2.0 M NH3/MeOH in dichloromethane=1-3%) and recrystallized from ethyl acetate to give N2-(4-aminosulfonylphenyl)-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 1.89-2.02 (m, 2H), 2.67 (t, J=8.1 Hz, 2H), 4.38 (t, J=5.7 Hz, 1H), 4.53 (t, J=5.7 Hz, 1H), 7.11 (br, 2H), 7.19 (d, J=8.1 Hz, 2H), 7.60 (d, J=8.7 Hz, 2H), 7.65 (d, J=8.1 Hz, 2H), 7.80 (d, J=8.7 Hz, 2H), 8.12 (d, J=3.9 Hz, 1H), 9.38 (br, 1H), 9.57 (br, 1H); 19F NMR (282 MHz, DMSO-d6): δ −201.79; LCMS: purity: 91.96%; MS (m/e): 420.74 (MH+).

reactant | 2-Chloro-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-4-pyrimidineamine | 100 mg | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)CCCF)F | C13H12ClF2N3
reactant | sulfanilamide | 100 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
catalyst | TFA | 5 drops | C(=O)(C(F)(F)F)O | C2HF3O2
product | N2-(4-aminosulfonylphenyl)-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-2,4-pyrimidinediamine | NS(=O)(=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CCCF)F | C19H19F2N5O2S
